US08404694B2
To a solution of 3-amino-1H-pyrazol-5-ol (10.00 g, 101 mmol) in THF (300 mL) at RT was added phthalic acid anhydride (14.9 g, 101 mmol) followed by acetic acid (69.3 ml, 1.21 mol). The mixture was heated to reflux. After 4 days, the mixture was concentrated in vacuo to afford a slurry that was cooled to 0° C. and filtered. The solid was rinsed with Et2O and dried in vacuo to afford 2-(5-hydroxy-1H-pyrazol-3-yl)isoindoline-1,3-dione as a yellow solid that was advanced without further purification. MS: Found M+H+=230.2.

reactant | 3-amino-1H-pyrazol-5-ol | 101 mmol, 10.00 g | NC1=NNC(=C1)O | C3H5N3O
reactant | phthalic acid anhydride | 101 mmol, 14.9 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | acetic acid | 1.21 mol, 69.3 ml | C(C)(=O)O | C2H4O2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-(5-hydroxy-1H-pyrazol-3-yl)isoindoline-1,3-dione | OC1=CC(=NN1)N1C(C2=CC=CC=C2C1=O)=O | C11H7N3O3
